US03988472
In a flask equipped with a dropping-funnel and a mechanical strirrer were placed 30 g (0.161 mol) of pure tri-n-propylacetic acid prepared as described above and 75 g of toluene. The mixture was stirred until dissolution after which a hot solution of 6.45 g of sodium hydroxide in 30 g of methanol was added through the dropping-funnel. To the solution thus obtained was added 1 g of CECA WSL black after which the whole was refluxed for 1 hour while being stirred. The black was filtered off and the residual mixture was distilled by adding little-by-little through the dropping-funnel 88 g of toluene to prevent the mixture from forming a mass. Distillation was suspended when the temperature at the head of the column reached 105° C, after which the mixture was cooled to room-temperature. The precipitate which formed was centrifuged out and rinsed twice with 20 g of acetone. It was then dried in a rotatory evaporator at 80° C for 2 hours and then at 105° C under atmospheric pressure in a ventilated drying-oven for 4 hours. In this way, 30 g of sodium tri-n-propylacetate were obtained which represents a yield of 89.5%.

reactant | tri-n-propylacetic acid | 0.161 mol, 30 g | C(CC)C(C(=O)O)(CCC)CCC | C11H22O2
reactant | toluene | 75 g | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 6.45 g | [OH-].[Na+]
solvent | methanol | 30 g | CO | CH4O
product | sodium tri-n-propylacetate | 30 g, yield of 89.5% | C(CC)C(C(=O)[O-])(CCC)CCC.[Na+] | InChI=1S/C11H22O2.Na/c1-4-7-11(8-5-2,9-6-3)10(12)13;/h4-9H2,1-3H3,(H,12,13);/q;+1/p-1
